US08440666B2
2-(2-Aminoethyl)-4-bromo-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one
2-{2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]ethyl}-1H-isoindole-1,3(2H)-dione prepared above in methanol (6 mL) was stirred with hydrazine monohydrate (50 μL, 1.6 mmol) at 80° C. for 6 hours. After completion of the reaction, the solvent was removed by vacuum distillation, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/methanol=4/1) to give the desired product (32 mg, 28% yield).

reactant | 2-{2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]ethyl}-1H-isoindole-1,3(2H)-dione | BrC1=C(C=NN(C1=O)CCN1C(C2=CC=CC=C2C1=O)=O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C24H27BrN4O3
reactant | hydrazine monohydrate | 1.6 mmol, 50 μL | O.NN
solvent | methanol | 6 mL | CO | CH4O
product | 2-(2-Aminoethyl)-4-bromo-5-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-3(2H)-one | 32 mg, 28% yield | NCCN1N=CC(=C(C1=O)Br)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C16H25BrN4O
